US05401756
a) Preparation of 3,4-dihydro-7-methoxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone
To a suspension of 3.70 g of sodium hydride (about 60%) in 80 ml of dimethylformamide was added portionwise 5.30 g of 3-chloromethylpyridine hydrochloride under ice cooling. The mixture was stirred under ice cooling for 15 minutes, and a solution of 4.09 g of 3,4-dihydro-7-methoxy-1 (2H)-isoquinolinone in 30 ml of dimethylformamide was added dropwise in 15 minutes thereto. The mixture was stirred at 10° C. for 1 hour, mixed with water and shaken with toluene. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was chromatographed on a column of silica gel, eluting with ethyl acetate to give 4.50 g of the titled compound.

reactant | sodium hydride | 3.70 g | [H-].[Na+]
reactant | 3-chloromethylpyridine hydrochloride | 5.30 g | Cl.ClCC=1C=NC=CC1
reactant | 3,4-dihydro-7-methoxy-1 (2H)-isoquinolinone | 4.09 g | COC1=CC=C2CCNC(C2=C1)=O | C10H11NO2
reactant | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,4-dihydro-7-methoxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone | 4.50 g | COC1=CC=C2CCN(C(C2=C1)=O)CC=1C=NC=CC1 | C16H16N2O2
